US04886810
In the same manner as described in Example 5, a mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, trans-3-amino4-methylpyrrolidine, and xylene was refluxed for 3 hours to give 7-(trans-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline3-carboxylic acid, m.p. 255°-256° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | trans-3-amino4-methylpyrrolidine | N[C@@H]1CNC[C@H]1C | C5H12N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(trans-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline3-carboxylic acid | N[C@@H]1CN(C[C@H]1C)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F | C18H18F3N3O3
